US09428512B2
Intermediate 7: Ethyl 5-methyl-3-pentanimidamido-1H-pyrrole-2-carboxylate hydrochloride
Hydrogen chloride in dioxane (4M, 308 mL, 1.2 mol) was added dropwise to ethyl 3-amino-5-methyl-1H-pyrrole-2-carboxylate (38.3 g, 228 mmol) (J. Med. Chem. 2008, 51, 68) in valeronitrile (383 mL). The resultant mixture was heated at 50° C. overnight. An additional portion of acid (160 mL, 0.64 mol) was added and the mixture heated at 55° C. overnight. The reaction mixture was cooled to room temperature, filtered and the filtrate evaporated. The residue was slurried in TBME (1200 mL) for 30 minutes then the solid filtered and washed with TMBE and dried. The title compound was obtained as a brown solid (58.9 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | dioxane | 1.2 mol, 4M, 308 mL | O1CCOCC1 | C4H8O2
reactant | ethyl 3-amino-5-methyl-1H-pyrrole-2-carboxylate | 228 mmol, 38.3 g | NC1=C(NC(=C1)C)C(=O)OCC | C8H12N2O2
solvent | valeronitrile | 383 mL | C(CCCC)#N | C5H9N
product | Ethyl 5-methyl-3-pentanimidamido-1H-pyrrole-2-carboxylate hydrochloride | Cl.CC1=CC(=C(N1)C(=O)OCC)NC(CCCC)=N | InChI=1S/C13H21N3O2.ClH/c1-4-6-7-11(14)16-10-8-9(3)15-12(10)13(17)18-5-2;/h8,15H,4-7H2,1-3H3,(H2,14,16);1H
